US05374772
A mixture of 0.30 g (0.54 mmol) of 3-[3-(4-hydroxyphenoxy) propoxy]-5-(octadecyloxy)benzoic acid, 0.14 g (1.62 mmol) of sodium bicarbonate and 0.67 ml (10.8 mmol) of methyl iodide in 5 ml of DMF was stirred and heated at 40° for 48 hours. The solvent was removed at reduced pressure, the residue was extracted with ethyl acetate and the extract was washed with water. The dried extract was concentrated to a solid which was triturated with hexane and filtered to give 0.298 g (97% yield, mp 88°-90°) of 3-[3-(4-hydroxyphenoxy)propoxy]-5-(octadecyloxy)benzoic acid methyl ester.

reactant | 3-[3-(4-hydroxyphenoxy) propoxy]-5-(octadecyloxy)benzoic acid | 0.54 mmol, 0.30 g | OC1=CC=C(OCCCOC=2C=C(C(=O)O)C=C(C2)OCCCCCCCCCCCCCCCCCC)C=C1 | C34H52O6
reactant | sodium bicarbonate | 1.62 mmol, 0.14 g | C([O-])(O)=O.[Na+]
reactant | methyl iodide | 10.8 mmol, 0.67 ml | CI | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-[3-(4-hydroxyphenoxy)propoxy]-5-(octadecyloxy)benzoic acid methyl ester | 0.298 g, 97% yield | COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)O)=O | C35H54O6
